US07399780B2
5,6-Dibromo-1,3-dihydroindol-2-one
6-Bromooxindole (0.168 g, 0.8 mmol) was dissolved in acetic acid (4 mL) and stirred for 5 min at room temperature. N-Bromosuccinimide (0.14 g, 0.8 mmol) was added and the yellow reaction mixture was stirred for 3 h at ambient temperature. The mixture was poured onto ice and the resulting precipitate was collected by filtration and dried in vacuo to give 0.192 g (83% yield) of the title compound as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 10.61 (s, 1 H), 7.60 (s, 1 H), 7.14 (s, 1 H), 3.52 (s, 2 H).

reactant | 6-Bromooxindole | 0.8 mmol, 0.168 g | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | N-Bromosuccinimide | 0.8 mmol, 0.14 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 5,6-Dibromo-1,3-dihydroindol-2-one | 0.192 g, 83% yield | BrC=1C=C2CC(NC2=CC1Br)=O | C8H5Br2NO
